US04399294
N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
To a stirred solution of N-[2-[[5-(1,3-dioxolan-2-yl)-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine (1.65 g) and dimethylamine hydrochloride (16.3 g) in water (3.74 ml) and ethanol (6.2 ml) was added 2 N hydrochloric acid (3.74 ml). After 15 min. at room temperature, a solution of dimethylamine in water (40%) (0.85 ml) was added followed by a solution of sodium cyanoborohydride (0.156 g) in water (1 ml). After 1h, the solution was evaporated in vacuo and to the oily residue was added acetic acid (0.5 ml). After 10 min., tetrahydrofuran (100 ml) and an excess of anhydrous sodium carbonate were added, the mixture heated to boiling and allowed to cool to room temperature. After standing for 3 h, the mixture was filtered and the combined filtrate and washings evaporated to low bulk in vacuo. Decolourising charcoal was added to the hot solution and after 1h, the mixture was filtered. The filtrate was evaporated to give an oil (1.7 g) which was chromatographed on silica using methanol:0.88 ammonia (79:1) to give an oil which was dissolved in ethanol. The solution was filtered and evaporated to give an oil (0.75 g) which was crystallised from methyl isobutyl ketone to yield the title compound (0.27 g), m.p. 68°-69.5° which was not depressed on admixture with a sample prepared according to the method of Example 15 in British Patent Specification No. 1,565,966.

reactant | N-[2-[[5-(1,3-dioxolan-2-yl)-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 1.65 g | O1C(OCC1)C1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H19N3O5S
reactant | dimethylamine hydrochloride | 16.3 g | Cl.CNC
reactant | hydrochloric acid | 2 N, 3.74 ml | Cl | ClH
reactant | dimethylamine | CNC | C2H7N
reactant | sodium cyanoborohydride | 0.156 g | C(#N)[BH3-].[Na+]
solvent | water | 3.74 ml | O | H2O
solvent | ethanol | 6.2 ml | C(C)O | C2H6O
solvent | water | 0.85 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 1.7 g | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H22N4O3S
